US06313311B1
a) 1-(1H-Imidazol-4-ylmethyl)-6-methoxyindan-5-carbaldehyde
Tin(IV)chloride (1.60 g) is added dropwise to a stirred solution of dichloromethyl methyl ether (0.68 g) in methylene chloride (12 ml) with ice cooling under a nitrogen atmosphere. The solution is stirred at 0° C. for one hour before adding a solution of 4-(6-methoxyindan-1-ylmethyl)-1H-imidazole (0.60 g) in methylene chloride (4 ml). The resulting mixture is allowed to warm to ambient temperature while being stirred for 4 hours. The mixture is then poured into cold water and is made basic with ammonium hydroxide solution. The product is extracted into methylene chloride which is washed with water, dried with sodium sulfate and evaporated to dryness. The crude product is purified by flash chromatography using methylene chloride-methanol as eluent.

reactant | Tin(IV)chloride | 1.60 g | [Sn](Cl)(Cl)(Cl)Cl
reactant | dichloromethyl methyl ether | 0.68 g | COC(Cl)Cl | C2H4Cl2O
reactant | 4-(6-methoxyindan-1-ylmethyl)-1H-imidazole | 0.60 g | COC1=CC=C2CCC(C2=C1)CC=1N=CNC1 | C14H16N2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1-(1H-Imidazol-4-ylmethyl)-6-methoxyindan-5-carbaldehyde | N1C=NC(=C1)CC1CCC2=CC(=C(C=C12)OC)C=O | C15H16N2O2
